### PR TITLE
[Merged by Bors] - feat (Data/Finset/Basic) : Equivalence between Pi type over Finset.cons and a product

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR defines an equivalence between Pi over an augmented finset and a product with Pi over the original finset.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Basic.lean [hunk 1]
```diff
@@ -807,6 +815,38 @@ theorem ssubset_iff_exists_cons_subset : s ⊂ t ↔ ∃ (a : _) (h : a ∉ s),
   obtain ⟨a, hs, ht⟩ := not_subset.1 h.2
   exact ⟨a, ht, cons_subset.2 ⟨hs, h.subset⟩⟩
 
+/-- Split the added element of cons off a Pi type. -/
+@[simps!]
+def cons_pi_prod {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s) :
+    (Π i ∈ cons a s has, f i) → f a × Π i ∈ s, f i :=
+  fun x => (x a (mem_cons_self a s), fun i hi => x i (mem_cons_of_mem hi))
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Basic.lean:822]: Any reason not to write this as
```suggestion
def cons_pi_prod {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s)
    (x : Π i ∈ cons a s has, f i)) : f a × Π i ∈ s, f i :=
  (x a (mem_cons_self a s), fun i hi => x i (mem_cons_of_mem hi))
```
?

File: Mathlib/Data/Finset/Basic.lean [hunk 2]
```diff
@@ -807,6 +815,38 @@ theorem ssubset_iff_exists_cons_subset : s ⊂ t ↔ ∃ (a : _) (h : a ∉ s),
...
+
+open Classical in
+/-- Combine a product with a pi type to pi of cons. -/
+noncomputable def prod_pi_cons {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s) :
+    (f a × Π i ∈ s, f i) → (Π i ∈ cons a s has, f i) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Basic.lean:827]: Ditto

File: Mathlib/Data/Finset/Basic.lean [hunk 3]
```diff
@@ -807,6 +815,38 @@ theorem ssubset_iff_exists_cons_subset : s ⊂ t ↔ ∃ (a : _) (h : a ∉ s),
   obtain ⟨a, hs, ht⟩ := not_subset.1 h.2
   exact ⟨a, ht, cons_subset.2 ⟨hs, h.subset⟩⟩
 
+/-- Split the added element of cons off a Pi type. -/
+@[simps!]
+def cons_pi_prod {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Basic.lean:820]: Should these be snake or camel case?

File: Mathlib/Data/Finset/Basic.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/Data/Finset/Basic.lean]: That is much better, thank you.

File: Mathlib/Data/Finset/Basic.lean (hunk 3 above)
Comment (ScottCarnahan) [reply Mathlib/Data/Finset/Basic.lean]: I have changed it to camel.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Data/Finset/Basic.lean [hunk 4]
```diff
@@ -755,6 +755,14 @@ theorem mem_cons_self (a : α) (s : Finset α) {h} : a ∈ cons a s h :=
 theorem cons_val (h : a ∉ s) : (cons a s h).1 = a ::ₘ s.1 :=
   rfl
 
+theorem eq_of_not_mem_of_mem_cons {s : Finset α} {a : α} (has : a ∉ s) {i : α}
+    (hi : i ∈ cons a s has) (his : i ∉ s) : i = a :=
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Basic.lean:759]:
```suggestion
theorem eq_of_mem_cons_of_not_mem {s : Finset α} {a : α} (has : a ∉ s) {i : α}
    (hi : i ∈ cons a s has) (his : i ∉ s) : i = a :=
```

File: Mathlib/Data/Finset/Basic.lean [hunk 5]
```diff
@@ -755,6 +755,14 @@ theorem mem_cons_self (a : α) (s : Finset α) {h} : a ∈ cons a s h :=
...
+  (mem_cons.1 hi).resolve_right his
+
+theorem mem_of_mem_cons_of_ne {s : Finset α} {a : α} (has : a ∉ s) {i : α}
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Basic.lean:762]:
```suggestion
theorem mem_of_mem_cons_of_ne {s : Finset α} {a : α} {has) {i : α}
```

File: Mathlib/Data/Finset/Basic.lean [hunk 6]
```diff
@@ -755,6 +755,14 @@ theorem mem_cons_self (a : α) (s : Finset α) {h} : a ∈ cons a s h :=
 theorem cons_val (h : a ∉ s) : (cons a s h).1 = a ::ₘ s.1 :=
   rfl
 
+theorem eq_of_not_mem_of_mem_cons {s : Finset α} {a : α} (has : a ∉ s) {i : α}
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Basic.lean:758]:
```suggestion
theorem eq_of_not_mem_of_mem_cons (has : a ∉ s)
```

File: Mathlib/Data/Finset/Basic.lean (hunk 4 above)
Comment (YaelDillies) [inline Mathlib/Data/Finset/Basic.lean:759]:
```suggestion
    (h : b ∈ cons a s has) (hb : b ∉ s) : b = a :=
```

**Review by YaelDillies — COMMENTED** [review]
What's your use case for these equivalences?

File: Mathlib/Data/Finset/Basic.lean [hunk 7]
```diff
@@ -812,6 +820,38 @@ theorem cons_swap (hb : b ∉ s) (ha : a ∉ s.cons b hb) :
...
+
+open Classical in
+/-- Combine a product with a pi type to pi of cons. -/
+noncomputable def prodPiCons {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s)
+    (x : f a × Π i ∈ s, f i) : (Π i ∈ cons a s has, f i) :=
+  fun i hi =>
+    if h : i = a then cast (congrArg f h.symm) x.1 else x.2 i (mem_of_mem_cons_of_ne has hi h)
+
+/-- The equivalence between pi types on cons and the product. -/
+noncomputable def consPiEquiv {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s) :
```
Comment (b-mehta) [inline Mathlib/Data/Finset/Basic.lean:837]: It's a little strange to be using `Finset.cons` but also to be noncomputable. What do you think of giving this in terms of `Finset.insert` instead, together with decidable equality?

**Comment by ScottCarnahan** [comment]
My use case is: constructing a summable family of Hahn series by pointwise multiplication from finitely many summable families (and eventually, a way to make algebra homs from MvPowerSeries to HahnSeries).  cons_induction seemed like the easiest way to make it work.

File: Mathlib/Data/Finset/Basic.lean [hunk 8]
```diff
@@ -812,6 +819,36 @@ theorem cons_swap (hb : b ∉ s) (ha : a ∉ s.cons b hb) :
...
+  (x a (mem_cons_self a s), fun i hi => x i (mem_cons_of_mem hi))
+
+/-- Combine a product with a pi type to pi of cons. -/
+def prodPiCons [DecidableEq α] (f : α → Type*) {a : α} (has : a ∉ s) (x : f a × Π i ∈ s, f i) :
+    (Π i ∈ cons a s has, f i) :=
+  fun i hi =>
+    if h : i = a then cast (congrArg f h.symm) x.1 else x.2 i (mem_of_mem_cons_of_ne hi h)
+
+/-- The equivalence between pi types on cons and the product. -/
+def consPiEquiv [DecidableEq α] {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s) :
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Basic.lean:834]:
```suggestion
def consPiProdEquiv [DecidableEq α] {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s) :
```
so that it's named after its forward direction `consPiProd`

File: Mathlib/Data/Finset/Basic.lean [hunk 9]
```diff
@@ -1145,6 +1182,35 @@ theorem disjoint_insert_left : Disjoint (insert a s) t ↔ a ∉ t ∧ Disjoint
...
+def insertPiProd (f : α → Type*) (x : Π i ∈ insert a s, f i) : f a × Π i ∈ s, f i :=
+  (x a (mem_insert_self a s), fun i hi => x i (mem_insert_of_mem hi))
+
+/-- Combine a product with a pi type to pi of insert. -/
+def prodPiInsert (f : α → Type*) {a : α} (x : f a × Π i ∈ s, f i) : (Π i ∈ insert a s, f i) :=
+  fun i hi =>
+    if h : i = a then cast (congrArg f h.symm) x.1 else x.2 i (mem_of_mem_insert_of_ne hi h)
+
+/-- The equivalence between pi types on insert and the product. -/
+def insertPiEquiv [DecidableEq α] {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s) :
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Basic.lean:1196]: Same here
```suggestion
def insertPiProdEquiv [DecidableEq α] {s : Finset α} (f : α → Type*) {a : α} (has : a ∉ s) :
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
